US08455477B2
To a solution of pivalic acid (85.1 g, 0.833 mol) in concentrated sulfuric acid (280 ml) was slowly added hydrazinecarbothioamide (76.0 g, 0.833 mol) such that the internal temperature was maintained at 0-4° C. After addition was complete, the resulting mixture was heated to 80° C. and monitored by TLC. After the reaction was complete, the resulting yellow solution was cooled to room temperature, poured into ice, and then adjusted the pH to 7 by the addition of aqueous ammonium hydroxide. The resulting precipitate was filtered to obtain 5-tert-butyl-1,3,4-thiadiazol-2-amine which was used directly without purification.

reactant | pivalic acid | 0.833 mol, 85.1 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | hydrazinecarbothioamide | 0.833 mol, 76.0 g | N(N)C(N)=S | CH5N3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 280 ml | S(O)(O)(=O)=O | H2O4S
product | 5-tert-butyl-1,3,4-thiadiazol-2-amine | C(C)(C)(C)C1=NN=C(S1)N | C6H11N3S
